US07273865B2
2-Methyl-1-oxo-2,8-diaza-spiro [4.5] decane-8-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide
From (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester with 4-spiro-[3-(N-methyl-2-pyrrolidone)]-piperidine hydrochloride and pyridine in dichloroethane and tetrahydrofuran. ES-MS m/e (%): 461 (M+H+, 100).

reactant | (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1)=O | C18H18N4O4S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methyl-1-oxo-2,8-diaza-spiro [4.5] decane-8-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(=O)N2CCC1(CCN(C1=O)C)CC2 | C21H28N6O4S
